US07687664B2
Methyl 3-(2-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)benzoate
1.26 g of t-Butyl N-(2-bromo-5-methoxybenzyl)carbamate, 790 mg of 3-methoxycarbonylphenylboronic acid, 231 mg of tetrakistriphenyl phosphine palladium and 2.20 g of potassium carbonate were dissolved in 25 ml of toluene, and the mixture was heated at 100° C. for 7 hours in a nitrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was evaporated. The residue was purified by silica gel column, to give 470 mg of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | t-Butyl N-(2-bromo-5-methoxybenzyl)carbamate | 1.26 g | BrC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)OC | C13H18BrNO3
reactant | 3-methoxycarbonylphenylboronic acid | 790 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | potassium carbonate | 2.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(2-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)benzoate | 470 mg | C(C)(C)(C)OC(=O)NCC1=C(C=CC(=C1)OC)C=1C=C(C(=O)OC)C=CC1 | C21H25NO5
